Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
right periprosthetic acetabular fracture
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ PMH of b/l TKAs, R THA, sciatica, HTN p/w R
periprosthetic acetabular fx. She was in the bathroom turning to
sit on the toilet when she felt sudden pop and severe R hip pain
and inability to bear weight.  She did not fall and lowered
herself to the toilet and denies HS/LOC. She called her daughter
who helped her stabilize herself and called ___ who took her to
___ where she was found to have a fracture.  Of
note, she states she had some antecedent pain while trying to 
get
out of her friend's pool a week earlier. She denies any other
complaints. 
 
Past Medical History:
HTN
Sciatica
B/l TKA (___) 
R THA (___)     
 
Social History:
___
Family History:
nc
 
Physical Exam:
Exam:
Vitals: AVSS
General: Well-appearing, breathing comfortably
RLE:  SILT s/s/spn/dpn/t. Fires ___. Active ROM 
of
hip and knee with minimal pain. Foot WWP. Soft compartments. No
tenderness to palpation. No ecchymosis, edema, or erythema. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right periprosthetic acetabular fracture and was 
admitted to the orthopedic surgery service. It was determined 
that the injury was non-operative at that time. She was made 
touch down weight bearing on the right lower extremity and will 
follow up with ___ in 2 weeks for repeat right hip 
films. The patient was started on routine anticoagulation. The 
patient's home medications were continued throughout this 
hospitalization. The patient worked with ___ who determined that 
discharge to rehab was appropriate. The ___ hospital 
course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications and the patient was voiding/moving bowels 
spontaneously. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
Amitriptyline 50 mg PO QHS  
Aspirin 81 mg PO DAILY  
Baclofen 10 mg PO DAILY  
Diclofenac Sodium ___ 75 mg PO BID  
Levothyroxine Sodium 75 mcg PO DAILY  
Lisinopril 10 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
while taking narcotics  
3.  Docusate Sodium 100 mg PO BID 
while taking narcotics  
4.  Enoxaparin Sodium 40 mg SC QHS 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 1 syringe subc daily at night Disp 
#*28 Syringe Refills:*0 
5.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain 
don't drink/drive/operate heavy machinery while taking 
RX *oxycodone 5 mg 0.5 to 1 tablet(s) by mouth every 4 hours as 
needed Disp #*60 Tablet Refills:*0 
6.  Amitriptyline 50 mg PO QHS  
7.  Aspirin 81 mg PO DAILY  
8.  Baclofen 10 mg PO DAILY  
9.  Diclofenac Sodium ___ 75 mg PO BID  
10.  Levothyroxine Sodium 75 mcg PO DAILY  
11.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
right periprosthetic acetabular fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
- You were in the hospital for your orthopaedic injury. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- touch down weight bearing on the right lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox daily for 4 weeks

Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Right lower extremity:  Touchdown weight bearing
touchdown weight bearing on the RLE

Treatments Frequency:
none
 
Followup Instructions:
___